US07709649B2
To a solution of 5-bromo-6-chloronicotinic acid (3.0 g, 13 mmol) in THF (20 mL) at 25° C. was added borane (1.0 M in THF, 25 mL, 25 mmol) dropwise. The solution was stirred for 3 h, after which 1.0 M HCl was added dropwise to quench the reaction and the contents of the flask were transferred to a separatory separation funnel. The organic layer was separated and the aqueous phase further extracted with EtOAc (3×). The combined organic phases were dried over Na2SO4 and concentrated, to furnish 2-chloro-3-bromo-5-hydroxymethylpyridine as a white solid (1.0 g, 37%). GC-MS: Exact mass calcd for C6H6BrClNO [M+H]+, 223. Found 223.

reactant | 5-bromo-6-chloronicotinic acid | 13 mmol, 3.0 g | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | borane | 25 mmol, 1.0 M, 25 mL | B | BH3
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-chloro-3-bromo-5-hydroxymethylpyridine | 1.0 g, 37% | ClC1=NC=C(C=C1Br)CO | C6H5BrClNO
